US04480118
To 50 ml of dried ether containing 0.86 g (0.018 mole) of lithium aluminum hydride, with ice-cooling, was added dropwise over a period of 10 minutes a solution of 4.15 g (0.018 mole) of 2-methoxycarbonyl-2-isopropenylindane in 10 ml of dried ether. The mixture was then stirred at room temperature for 2 hours to continue the reaction. The reaction mixture was poured into a mixture of 5% aqueous hydrochloric acid solution and ice. And then the ether layer was separated and the aqueous layer was extracted twice with 25 ml of ether. The ether layers were combined, washed with saturated aqueous sodium hydrogencarbonate solution, then with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated in vacuo to obtain 3.23 g of 2-isopropenyl-2-indanemethanol.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-methoxycarbonyl-2-isopropenylindane | 0.018 mole, 4.15 g | COC(=O)C1(CC2=CC=CC=C2C1)C(=C)C | C14H16O2
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 0.018 mole, 50 ml, 0.86 g | CCOCC | C4H10O
product | 2-isopropenyl-2-indanemethanol | 3.23 g | C(=C)(C)C1(CC2=CC=CC=C2C1)CO | C13H16O
